US07435823B2
Step (b) Preparation of N-[6-(6,7-dimethoxy(4-quinolyloxy))(2-naphthyl)](phenylmethoxy)carboxamide
4-Chloro-6,7-dimethoxyquinoline (prepared by the method described in WO 03/33472) (223 mg, 1.0 mmol), N-(6-hydroxy-(2-naphthyl))(benzyloxy)carboxamide (Step a, 293 mg, 1.0 mmol) and DMAP (122 mg, 1.0 mmol, Aldrich) in toluene (5 mL, Aldrich) were microwaved (Personal Chemistry, Emrys Optimizer) at 180° C. for 2 h. After cooling to RT, the white precipitate was collected and purified by silica gel column chromatography (80% EtOAc/hexane) to give title compound as a white solid. MS (ESI, pos. ion) m/z: 481.3 (M+1). Mass Calc'd for C29H24N2O5: 480.17.

reactant | 4-Chloro-6,7-dimethoxyquinoline | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | N-(6-hydroxy-(2-naphthyl))(benzyloxy)carboxamide | OC=1C=C2C=CC(=CC2=CC1)NC(=O)OCC1=CC=CC=C1 | C18H15NO3
catalyst | DMAP | 1.0 mmol, 122 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-[6-(6,7-dimethoxy(4-quinolyloxy))(2-naphthyl)](phenylmethoxy)carboxamide | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CC(=CC2=CC1)NC(=O)OCC1=CC=CC=C1 | C29H24N2O5
